US04683306
Preparation of 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide
To 6.34 g (0.03 mole) 3,4-dihydro-2-methyl-4-oxo-1,2-benzothiazine 1,1-dioxide, 19.5 g (0.15 mole) methylmagnesiumcarbonate in 150 ml N,N-dimethyl formamide were added. The mixture was stirred at 140°-150° C. for 2 hours. The resulting solution was poured quickly into a mixture of 200 ml conc-hydrochloric acid, 200 g ice chips and 500 ml diethyl ether. After stirring the mixture for 10 minutes, the diethylether layer was separated and the separated diethyl ether solution was evaporated in vacuo. The precipitated pale yellow crystals were filtered and recrystallized in dilute methanol solution to obtain 7.21 g of the title compound as white crystals. Yield: 94%

reactant | 3,4-dihydro-2-methyl-4-oxo-1,2-benzothiazine 1,1-dioxide | 0.03 mole, 6.34 g | CN1S(C2=C(C(C1)=O)C=CC=C2)(=O)=O | C9H9NO3S
reactant | methylmagnesiumcarbonate | 0.15 mole, 19.5 g | C([O-])([O-])=O.C[Mg+2]
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | N,N-dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide | 7.21 g, Yield: 94% | CN1S(C2=C(C(C1C(=O)O)=O)C=CC=C2)(=O)=O | C10H9NO5S
